US07417049B2
(2′R)-5′-(2-Bromofuran-3-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine]
(2′R)-5′-(Furan-3-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] (102 mg, 0.37 mmol), was stirred with bromine (65 mg, 0.41 mmol) in DMF (3 ml) at room temperature for 1 h. Vaccum was applied, and the mixture was stirred for a further 30 min. The reaction mixture was diluted with chloroform, and washed with aqueous sodium hydroxide, then the organic layer was dried, filtered and evaporated. The compound was purified by flash chromatography using a gradient of ammoniated methanol in chloroform to give the title compound (28 mg) as a pale solid; m/z 361, 363 (MH+).

reactant | (2′R)-5′-(Furan-3-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | 0.37 mmol, 102 mg | O1C=C(C=C1)C=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C17H18N2O2
reactant | bromine | 0.41 mmol, 65 mg | BrBr | Br2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2′R)-5′-(2-Bromofuran-3-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | 28 mg | BrC=1OC=CC1C=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C17H17BrN2O2
